US04016160
7-Amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (6.61 g) was suspended in methylene chloride (60 ml) and bis(trimethylsilyl)acetamide was added to the suspension to give a solution. A solution of dichloroacetyl chloride (3.24 g) in methylene chloride (10 ml) was added to the solution obtained above at -20° C under stirring. The mixture was stirred at the same temperature for 20 minutes. Methylene chloride was distilled off under reduced pressure after addition of a little water. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride and dried, and the solvent was distilled off under reduced pressure. The residue was pulverized by treating with ether and precipitates were collected by filtration to give 7-dichloroacetamido-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (7.12 g).

reactant | 7-Amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 6.61 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | bis(trimethylsilyl)acetamide | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | dichloroacetyl chloride | 3.24 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-dichloroacetamido-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 7.12 g | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)Cl | C12H10Cl2N4O4S3
